**************************************************
* Manufacturer:           Wurth Elektronik 
* Kinds:                  PFC Chokes
* Matchcode:              WE-PFC
* Library Type:           LTspice
* Version:                rev22a
* Created/modified by:    Toby      
* Date and Time:          2022-05-17
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2022 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt 760800401 1 2
Rp 1 2 24.09k
Cp 1 2 4.21p
Rs 1 N3 14m
L1 N3 2 118u Rser = 0.00001
.ends 760800401
*******
.subckt 760800402 1 2
Rp 1 2 35.37k
Cp 1 2 5.96p
Rs 1 N3 20m
L1 N3 2 236u Rser = 0.00001
.ends 760800402
*******
.subckt 760800403 1 2
Rp 1 2 46.45k
Cp 1 2 7.71p
Rs 1 N3 27m
L1 N3 2 355u Rser = 0.00001
.ends 760800403
*******
.subckt 760801401 1 2
Rp 1 2 38.16k
Cp 1 2 3.81p
Rs 1 N3 14m
L1 N3 2 118u Rser = 0.00001
.ends 760801401
*******
.subckt 760801402 1 2
Rp 1 2 67.69k
Cp 1 2 6.14p
Rs 1 N3 20m
L1 N3 2 236u Rser = 0.00001
.ends 760801402
*******
.subckt 760801403 1 2
Rp 1 2 80.83k
Cp 1 2 6.82p
Rs 1 N3 27m
L1 N3 2 355u Rser = 0.00001
.ends 760801403
*******
.subckt 760800201 1 2
Rp 1 2 58.26k
Cp 1 2 4.98p
Rs 1 N3 27m
L1 N3 2 194u Rser = 0.00001
.ends 760800201
*******
.subckt 760800201 1 2
Rp 1 2 58.26k
Cp 1 2 4.98p
Rs 1 N3 27m
L1 N3 2 194u Rser = 0.00001
.ends 760800201
*******
.subckt 760800202 1 2
Rp 1 2 82.8k
Cp 1 2 7.38p
Rs 1 N3 37m
L1 N3 2 389u Rser = 0.00001
.ends 760800202
*******
.subckt 760800203 1 2
Rp 1 2 131.3k
Cp 1 2 12.07p
Rs 1 N3 53m
L1 N3 2 584u Rser = 0.00001
.ends 760800203
*******
.subckt 760801201 1 2
Rp 1 2 151.83k
Cp 1 2 3.46p
Rs 1 N3 27m
L1 N3 2 194u Rser = 0.00001
.ends 760801201
*******
.subckt 760801202 1 2
Rp 1 2 206.1k
Cp 1 2 6.81p
Rs 1 N3 37m
L1 N3 2 389u Rser = 0.00001
.ends 760801202
*******
.subckt 760801203 1 2
Rp 1 2 125k
Cp 1 2 11.1p
Rs 1 N3 53m
L1 N3 2 584u Rser = 0.00001
.ends 760801203
*******
.subckt 760800101 1 2
Rp 1 2 49.12k
Cp 1 2 4.69p
Rs 1 N3 28.8m
L1 N3 2 255u Rser = 0.00001
.ends 760800101
*******
.subckt 760800102 1 2
Rp 1 2 91.11k
Cp 1 2 5.15p
Rs 1 N3 44m
L1 N3 2 510u Rser = 0.00001
.ends 760800102
*******
.subckt 760801101 1 2
Rp 1 2 62.27k
Cp 1 2 2.57p
Rs 1 N3 29m
L1 N3 2 255u Rser = 0.00001
.ends 760801101
*******
.subckt 760801102 1 2
Rp 1 2 102.7k
Cp 1 2 4.04p
Rs 1 N3 44m
L1 N3 2 510u Rser = 0.00001
.ends 760801102
*******
.subckt 760800301 1 2
Rp 1 2 46.9k
Cp 1 2 11.58p
Rs 1 N3 18m
L1 N3 2 180u Rser = 0.00001
.ends 760800301
*******
.subckt 760801301 1 2
Rp 1 2 42.1k
Cp 1 2 11.84p
Rs 1 N3 18m
L1 N3 2 180u Rser = 0.00001
.ends 760801301
*******

